US05166188
Methyl (E)-4-{4-((1,4-dihydro-4-oxopyrimidin-2-yl)amino)pheny}-3-butenoate
A mixture comprising 3.00 g of methyl (E)-4-(4-aminophenyl)-3-butenoate and 2.34 g of 2-methylthio-1,4-dihydro-4-oxopyrimidine was stirred at 150° to 160° C. for 20 minutes. The reaction mixture was purified by silica gel column chromatography [solvent: dichloromethane/methanol (30:1)] to obtain 1.58 g of the title compound as a light brown powder (yield: 35%).

reactant | methyl (E)-4-(4-aminophenyl)-3-butenoate | 3.00 g | NC1=CC=C(C=C1)/C=C/CC(=O)OC | C11H13NO2
reactant | 2-methylthio-1,4-dihydro-4-oxopyrimidine | 2.34 g | CSC=1NC=CC(N1)=O | C5H6N2OS
product | Methyl (E)-4-{4-((1,4-dihydro-4-oxopyrimidin-2-yl)amino)pheny}-3-butenoate | 1.58 g, yield: 35% | O=C1N=C(NC=C1)NC1=CC=C(C=C1)/C=C/CC(=O)OC | C15H15N3O3
